US06541473B2
trans-N-[4-(2,4-bis{[tert-Butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl]-3-nitrobenzamide
To a round bottomed flask was added trans-4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexylamine (80 mg) and dichloroethane (7 ml), and the reaction mixture heated to 40° C.,. To the stirred solution was added triethylamine (100 μl), a solution of 3-nitrobenzoyl chloride (101 mg) in tetrahydrofuran/dichloromethane (6 ml, 1:1 v/v) and 4-dimethylamino pyridine (catalytic). The reaction mixture was heated at 40° C. for 24 hr, and then room temperature for 24 hr. The reaction mixture was diluted with dichloromethane (20 ml) and aqueous sodium hydroxide (16 ml, 0.5M) was added. After stirring for 0.2 hr, the layers were separated and the aqueous layer extracted with dichloromethane (2×10 ml). The combined organic phases were washed with saturated sodium hydrogen carbonate solution (15 ml) and brine (16 ml), dried over magnesium sulfate, filtered and concentrated in vacuo. Purification via flash chromatography (SiO2, ethyl acetate/petroleum ether, gradient elution using 1:10, 1:8, 1:5, then 1:4, v/v) furnished the title compound (52 mg, 49%) as a colourless gum. δH (CDCl3): 0.18 (6H, s), 0.24 (6H, s), 0.97 (9H, s), 1.03 (9H, s), 1.34-1.61 (4H, m), 1.87-1.96 (2H, m), 2.17-2.27 (2H, m), 2.88 (1H, tt), 4.01-4.13 (1H, m), 6.08 (1H, d), 6.29 (1H, d), 6.43 (1H, dd), 6.97 (1H, d), 7.65 (1H, t), 8.18 (1H, d), 8.35 (1H, d), 8.57 (1H, s).

reactant | trans-4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexylamine | 80 mg | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)[C@@H]1CC[C@H](CC1)N | C24H45NO2Si2
reactant | dichloroethane | 7 ml | ClC(C)Cl | C2H4Cl2
reactant | triethylamine | 100 μl | C(C)N(CC)CC | C6H15N
reactant | 3-nitrobenzoyl chloride | 101 mg | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
solvent | tetrahydrofuran dichloromethane | 6 ml | O1CCCC1.ClCCl
catalyst | 4-dimethylamino pyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | sodium hydroxide | 0.5M, 16 ml | [OH-].[Na+]
product | trans-N-[4-(2,4-bis{[tert-Butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl]-3-nitrobenzamide | 52 mg, 49% | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)[C@@H]1CC[C@H](CC1)NC(C1=CC(=CC=C1)[N+](=O)[O-])=O | C31H48N2O5Si2
